US04115385
A solution of 1.61 grams (9.1 mmole) of 2-azido-2-phenylacetic acid [Forster and Mueller, J. Chem. Soc., 97, 138 (1910)] and 5 ml. of thionyl chloride is heated under reflux for hour. The reaction solution is evaporated under reduced pressure to furnish a residue of 2-azido-2-phenylacetyl chloride which is dissolved in 10 ml. of dichloromethane and is added over 5 minutes to a stirred ice-bath cooled solution of 2.4 grams (10 mmole) of 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam, 2.02 grams (20 mmole) of triethylamine and 50 ml. of dichloromethane. After 30 minutes the reaction solution is allowed to warm to room temperature. After a further 3 hours, the more volatile components of the solution are evaporated under reduced pressure and the residue is taken up in 50 ml. of water. The aqueous solution is washed twice with 25 ml. portions of ethyl acetate, and it is then adjusted to pH 2.5 by the careful addition of 6N hydrochloric acid. The resulting cloudy mixture is extracted twice with 30 ml. portions of ethyl acetate. After being dried using anhydrous sodium sulfate, the combined extracts are filtered and the solvent is evaporated in vacuo. The residue is dissolved in 10 ml. of dichloromethane; 1.0 ml. of triethylamine is added, and the resulting solution is poured into 350 ml. of rapidly stirred diethyl ether. The solid which precipitates is filtered off giving 1.62 g. (38% yield) of the title compound as its triethylamine salt. IR (KBr disc): 1792 cm-1 (β-lactam) and 1693 cm-1 (amide I). NMR (in D2 0/NaHC03): 7.40 ppm (s, 5H, aromatic hydrogens), 5.60 and 5.80 ppm (m and m, 2H, C-5 and C-6 hydrogens), 5.30 ppm (m, 2H, C-3 hydrogen and side-chain methine hydrogen), 3.20 (q, 6H, NCH2CH3), 1.60 ppm (s, 3H, C-2 methyl hydrogens), 1.30 ppm (t, 9H, NCH2CH3), 1.10 ppm (s, 3H, C-2 methyl hydrogens).

reactant | 2-azido-2-phenylacetic acid | 9.1 mmole, 1.61 grams | N(=[N+]=[N-])C(C(=O)O)C1=CC=CC=C1 | C8H7N3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-azido-2-phenylacetyl chloride | N(=[N+]=[N-])C(C(=O)Cl)C1=CC=CC=C1 | C8H6ClN3O
